US06503949B1
1-Methylsulfonylmethyl-3-nitrobenzene (4.70 g, 21.8 mmol) was added ethanol (70 mL) and the mixture was heated to reflux. At reflux the mixture was added SnCl2 dihydrate (24.6 g, 109 mmol) and heating at reflux was continued for 1 hour. After cooling, the mixture was poured into ice/water (200 mL) and neutralised (to pH 7) with 1 N sodium hydroxide. The mixture was filtered through celite, and the filter cake was washed with ethyl acetate. The phases from the combined filtrate and washings were separated, and the aqueous phase was extracted with ethyl acetate (2×150 mL). The combined organic phases were dried (MgSO4) and evaporated in vacuo to afford 2.23 g (55%) 3-(methylsulfonylmethyl)aniline.

reactant | 1-Methylsulfonylmethyl-3-nitrobenzene | 21.8 mmol, 4.70 g | CS(=O)(=O)CC1=CC(=CC=C1)[N+](=O)[O-] | C8H9NO4S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 3-(methylsulfonylmethyl)aniline | 2.23 g, 55% | CS(=O)(=O)CC=1C=C(N)C=CC1 | C8H11NO2S
